US04929613
α-[(Cyclopropylamino)methylene]-4-(1,4-dioxaspiro[4.4]non-7-yl)-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester.
A solution of 20.5 g (50 mmol) of 4-(1,4-dioxaspiro[4.4]non-7-yl)-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester in 200 ml of ethanol was cooled to 10° and treated dropwise with 3.4 g (60 mmol) of cyclopropylamine maintaining the temperature below 15° with an ice bath. After the addition was complete, the reaction was stirred at 5°-15° for 1.5 hours and then at room temperature for 1 hour. The resulting suspension was chilled to 5° and the solid removed by filtration, washed with ethanol, then hexane. The combined filtrate and washings were evaporated in vacuo and the residue was recrystallized from hexane to give 17.5 g of the title compound.

reactant | 4-(1,4-dioxaspiro[4.4]non-7-yl)-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 50 mmol, 20.5 g | O1CCOC12CC(CC2)C2=CC(=C(C=C2F)C(C(C(=O)OCC)=COCC)=O)F | C21H24F2O6
reactant | cyclopropylamine | 60 mmol, 3.4 g | C1(CC1)N | C3H7N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | α-[(Cyclopropylamino)methylene]-4-(1,4-dioxaspiro[4.4]non-7-yl)-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 17.5 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)C1CC2(OCCO2)CC1)F)=O | C22H25F2NO5
